US09216980B2
3-[4-(4-Methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid (2-hydroxy-ethyl)amide
DIPEA (13.5 μL, 77.4 μmol) was added to a solution of 3-[4-(4-methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid (20.0 mg, 51.6 PyBOP (28.2 mg, 54.2 μmol) and HOBt (8.4 mg, 62 μmol) in DMF (0.6 mL). After 10 min at ambient temperature, ethanolamine (16 μL, 0.26 mmol) was added to the reaction mixture. After 30 min the resultant mixture was acidified with 10% aqueous sulfuric acid and concentrated in vacuo. The resultant residue was dissolved in DMF, water and 10% aqueous sulfuric acid and purified by preparative HPLC (0-30% MeCN over 30 min, 35 mL/min) to afford the title compound. 1H NMR (DMSO-D6, 400 MHz): 12.49 (s, 1H), 9.71 (br.s, 1H), 9.14 (d, J=2.1 Hz, 1H), 8.90 (s, 1H), 8.94 (d, J=2.2 Hz, 1H), 8.66 (t, J=5.8 Hz, 1H), 7.77 (d, J=8.7 Hz, 2H), 7.17 (d, J=8.8 Hz, 2H), 3.97 (d, J=13.4 Hz, 2H), 3.57 (m, 4H), 3.45 (m, 2H), 3.20 (m, 2H), 3.04 (m, 2H), 2.89 (s. 3H), LCMS (Method D): RT=6.31 min, M+H+=431.

reactant | DIPEA | 77.4 μmol, 13.5 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-[4-(4-methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid | CN1CCN(CC1)C1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)C(=O)O)N=C1 | C22H21N5O2
reactant | PyBOP | 54.2 μmol, 28.2 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | HOBt | 62 μmol, 8.4 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ethanolamine | 0.26 mmol, 16 μL | C(O)CN | C2H7NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | 3-[4-(4-Methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid (2-hydroxy-ethyl)amide | OCCNC(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)N3CCN(CC3)C | C24H26N6O2
